US08748415B2
Preparation of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (0.1 g, 0.167 mmol) in DCE (2 ml) was added acetic acid (0.019 ml, 0.334 mmol) and N-acetylethylenediamine (0.048 ml, 0.501 mmol). The mixture was stirred for 2 h at rt then to the mixture was added sodium triacetoxyborohydride (0.177 g, 0.835 mmol). The mixture was stirred at rt for 3 days then was diluted with 7 ml of sat. NaHCO3 and was extracted with dichloromethane (3×7 ml). The combined organic layers were dried with Na2SO4, the drying agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The crude material was used in the next step with no additional purification. LCMS: m/e 685.4 (M+H)+, 3.86 min (method 6).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.167 mmol, 0.1 g | C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H58O3
reactant | acetic acid | 0.334 mmol, 0.019 ml | C(C)(=O)O | C2H4O2
reactant | N-acetylethylenediamine | 0.501 mmol, 0.048 ml | C(C)(=O)NCCN | C4H10N2O
reactant | sodium triacetoxyborohydride | 0.835 mmol, 0.177 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
solvent | NaHCO3 | 7 ml | C(=O)(O)[O-].[Na+]
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | C(C)(=O)NCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C45H68N2O3
